US07262185B2
1-nitro-4-[(4-propyl-1H-1,2,4-triazole-5-one-3-yl)methylthio]benzene (0.5 g), reduced iron (0.5 g) and calcium chloride (0.1 g) were added to 85% aqueous solution of ethanol (15 ml), and the mixture was refluxed for 2 hours. The reaction solution was filtered with. Celite, and the solvent of the filtrate was distilled off. The residue was purified by basic silica gel column chromatography (elution solvent: ethyl acetate) to give 4-[(4-propyl-1H-1,2,4-triazole-5-one-3-yl)methylthio]aniline (0.4 g) as pale brown crystals.

reactant | 1-nitro-4-[(4-propyl-1H-1,2,4-triazole-5-one-3-yl)methylthio]benzene | 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)SCC1=NNC(N1CCC)=O | C12H14N4O3S
reactant | calcium chloride | 0.1 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-[(4-propyl-1H-1,2,4-triazole-5-one-3-yl)methylthio]aniline | 0.4 g | C(CC)N1C(=NNC1=O)CSC1=CC=C(N)C=C1 | C12H16N4OS
